US04167638
C. 2-(4-Chlorobenzyloxy)-6-methoxy-8-(4-amino-1-methylbutylamino)-quinoline Maleate.
A mixture of 7.5 g (0.014 mole) 2-(4-chlorobenzyloxy)-6-methoxy-8-(4-phthalimido-1-methylbutylamino)quinoline (crude), 6.0 ml 85% hydrazine hydrate, and 100 ml 95% ethanol was refluxed 3 hr. After standing overnight, the mixture was stirred with ether and 20 g 50% aq. KOH. The ether layer was washed with water and sat'd. brine. The aqueous portions were extracted with ether and the washing process repeated. A sat'd solution of 2.0 g maleic acid in methanol was added to the dried (MgSO4) ether solution. There was obtained 5.10 g (71%) of an off-white solid, mp 173°-177°. Recrystallization of the crude maleate from 120 ml 95% ethanol (charcoal) afforded 3.55 g, mp 174°-178°. Further recrystallization from ethanol gave the analytical sample, mp 176°-177.5°.

reactant | 2-(4-chlorobenzyloxy)-6-methoxy-8-(4-phthalimido-1-methylbutylamino)quinoline | 0.014 mole, 7.5 g | ClC1=CC=C(COC2=NC3=C(C=C(C=C3C=C2)OC)NC(CCCN2C(C=3C(C2=O)=CC=CC3)=O)C)C=C1 | C30H28ClN3O4
reactant | hydrazine hydrate | 6.0 ml | O.NN
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | KOH | 20 g | [OH-].[K+]
solvent | ether | CCOCC | C4H10O
product | 2-(4-Chlorobenzyloxy)-6-methoxy-8-(4-amino-1-methylbutylamino)-quinoline Maleate | 5.10 g, 71% | C(\C=C/C(=O)O)(=O)O.ClC1=CC=C(COC2=NC3=C(C=C(C=C3C=C2)OC)NC(CCCN)C)C=C1 | InChI=1S/C22H26ClN3O2.C4H4O4/c1-15(4-3-11-24)25-20-13-19(27-2)12-17-7-10-21(26-22(17)20)28-14-16-5-8-18(23)9-6-16;5-3(6)1-2-4(7)8/h5-10,12-13,15,25H,3-4,11,14,24H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
